US03969368
(2-phenyl-5-chloro-1,3-benzodioxol-2-yl) acetic acid.
A mixture of 32 g. of ethyl(2-phenyl-5-chloro-1,3-benzodioxol-2-yl)acetate, 200 cc. of 95% ethanol and 150 cc. of 4% NaOH is refluxed for 2 hours. The alcohol is then removed under vacuum and, after cooling, the mixture is acidified with dilute HCl. The precipitated solid is filtered off and recrystallised from benzene-hexane, m.p. 117°-119°C.

reactant | ethyl(2-phenyl-5-chloro-1,3-benzodioxol-2-yl)acetate | C(C)OC(CC1(OC2=C(O1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C17H15ClO4
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (2-phenyl-5-chloro-1,3-benzodioxol-2-yl) acetic acid | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)Cl)CC(=O)O | C15H11ClO4
